US04609669
Gaseous chlorine was slowly introduced to a stirred solution of 35.6 g of 4-trifluoromethoxyphenol in 100 ml carbon tetrachloride. The reaction temperature was kept at 20° to 30° C. by outer cooling. After saturaring with chlorine, the reaction mixture was stirred at 20° to 30° C. for 1 hour, cooled, washed with water, dried over anhydrous sodium sulfate, and evaporated to give a pale yellow residue. The residue was distilled under reduced pressure to give 29.8 g of 2-chloro-4-trifluoromethoxyphenol which boiled at 67°-70° C./18 mmHg.

reactant | chlorine | ClCl | Cl2
reactant | 4-trifluoromethoxyphenol | 35.6 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-4-trifluoromethoxyphenol | 29.8 g | ClC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4ClF3O2
